US05840732
Synthesis of 3-[4-(2-ethoxycarbonylimidazo[1,2-a]pyridin-8-yloxy)butyl]thiazolidine-2,4-dione
Using 5.69 g (20 mmol) of 3-[4-(2-aminopyridin-3-yloxy)butyl]thiazolidine-2,4-dione and 2.51 ml (20 mmol) of ethyl bromopyruvate, the same procedure as in Reference Example 27 was followed, to yield 3.28 g (43.5%, light orange oily substance) of the desired product.

reactant | 3-[4-(2-aminopyridin-3-yloxy)butyl]thiazolidine-2,4-dione | 20 mmol, 5.69 g | NC1=NC=CC=C1OCCCCN1C(SCC1=O)=O | C12H15N3O3S
reactant | ethyl bromopyruvate | 20 mmol, 2.51 ml | BrCC(C(=O)OCC)=O | C5H7BrO3
product | 3-[4-(2-ethoxycarbonylimidazo[1,2-a]pyridin-8-yloxy)butyl]thiazolidine-2,4-dione | C(C)OC(=O)C=1N=C2N(C=CC=C2OCCCCN2C(SCC2=O)=O)C1 | C17H19N3O5S
